US06441017B1
Step A: 1-(tert-Butoxycarbonylamino)-7-(triisopropylsilyloxy)naphthalene
A solution of 8-(tert-butoxycarbonylamino)-2-naphthol, as described in Example 9, Step A, (8.00 g, 30.9 mmol), triisopropylsilyl chloride (7.92 mL, 37.0 mmol), and imidazole (4.20 g, 61.7 mmol) in DMF (75 mL) was stirred at ambient temperature for 18 hours, then poured into 10% aqueous citric acid (100 mL) and extracted with EtOAc (2×100 mL). The combined organic extracts were washed with H2O, then brine, then dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by flash column chromatography on silica, eluting with CH2Cl2—50% hexane to yield the desired product.

reactant | 8-(tert-butoxycarbonylamino)-2-naphthol | C(C)(C)(C)OC(=O)NC=1C=CC=C2C=CC(=CC12)O | C15H17NO3
reactant | triisopropylsilyl chloride | 30.9 mmol, 7.92 mL, 8.00 g | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
reactant | imidazole | 61.7 mmol, 4.20 g | N1C=NC=C1 | C3H4N2
reactant | citric acid | 100 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | 1-(tert-Butoxycarbonylamino)-7-(triisopropylsilyloxy)naphthalene | C(C)(C)(C)OC(=O)NC1=CC=CC2=CC=C(C=C12)O[Si](C(C)C)(C(C)C)C(C)C | C24H37NO3Si
